US08034812B2
Production of N-(3-{[2-(isobutyrylamino)imidazo[1,2-b]pyridazin-6-yl]oxy}phenyl)-3-(trifluoromethyl)benzamide
Using N-{3-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-3-(trifluoromethyl)benzamide (150 mg, 0.363 mmol), 2-methylpropanoic acid (50 μL, 0.544 mmol), N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (104 mg, 0.544 mmol), 1-hydroxybenzotriazole (73 mg, 0.544 mmol), triethylamine (76 μL, 0.544 mmol) and N,N-dimethylformamide (5 ml) as starting materials and in the same manner as in Example 380, the title compound (74 mg, 42%) was obtained as a pale-green powder.

reactant | N-{3-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-3-(trifluoromethyl)benzamide | 0.363 mmol, 150 mg | NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C(F)(F)F)=O)C1 | C20H14F3N5O2
reactant | 2-methylpropanoic acid | 0.544 mmol, 50 μL | CC(C(=O)O)C | C4H8O2
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 0.544 mmol, 104 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.544 mmol, 73 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 0.544 mmol, 76 μL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | N-(3-{[2-(isobutyrylamino)imidazo[1,2-b]pyridazin-6-yl]oxy}phenyl)-3-(trifluoromethyl)benzamide | 74 mg, 42% | C(C(C)C)(=O)NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C(F)(F)F)=O)C1 | C24H20F3N5O3
